### PR TITLE
[Merged by Bors] - feat(Analysis/TemperedDistribution): embedding of `Lp`-functions

### PR DESCRIPTION
**Pull request by mcdoll**
We prove that every `Lp` function defines a tempered distribution via integration. This embedding is a continuous linear map and it is injective.

We also record the embedding as a coercion from `Lp` to `TemperedDistribution`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/TemperedDistribution.lean [hunk 1]
```diff
@@ -75,6 +78,84 @@ theorem toTemperedDistribution_apply (g : 𝓢(E, ℂ)) :
...
+def toTemperedDistributionAux (p q : ℝ≥0∞) (hp : Fact (1 ≤ p)) (hq : Fact (1 ≤ q))
+    (hpq : ENNReal.HolderConjugate p q) (f : Lp F p μ) :
+    𝓢'(E, F) :=
+  toPointwiseConvergenceCLM _ _ _ _ <| (lsmul ℂ ℂ).flip.lpPairing μ p q f ∘L toLpCLM ℂ ℂ q μ
+
+/-- Define a tempered distribution from a L^p function. -/
+def toTemperedDistribution {p : ℝ≥0∞}
+    [hp : Fact (1 ≤ p)] (f : Lp F p μ) : 𝓢'(E, F) :=
+  toTemperedDistributionAux p ((1 - p⁻¹)⁻¹) hp (by simp [fact_iff])
+  (ENNReal.HolderConjugate.inv_one_sub_inv' hp.out) f
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/TemperedDistribution.lean]: I suggest instead:
```suggestion
/-- Define a tempered distribution from a L^p function. -/
def toTemperedDistribution {p : ℝ≥0∞}
    [hp : Fact (1 ≤ p)] (f : Lp F p μ) : 𝓢'(E, F) :=
  haveI := ENNReal.HolderConjugate.inv_one_sub_inv' hp.out
  haveI : Fact (1 ≤ (1 - p⁻¹)⁻¹) := by simp [fact_iff]
  toPointwiseConvergenceCLM _ _ _ _ <|
    (lsmul ℂ ℂ).flip.lpPairing μ p (1 - p⁻¹)⁻¹ f ∘L toLpCLM ℂ ℂ (1 - p⁻¹)⁻¹ μ
```

File: Mathlib/Analysis/Distribution/TemperedDistribution.lean [hunk 2]
```diff
@@ -75,6 +78,84 @@ theorem toTemperedDistribution_apply (g : 𝓢(E, ℂ)) :
...
+
+theorem ker_toTemperedDistributionCLM_eq_bot {p : ℝ≥0∞} [hp : Fact (1 ≤ p)] :
+    LinearMap.ker (MeasureTheory.Lp.toTemperedDistributionCLM F μ p) = ⊥ := by
+  rw [LinearMap.ker_eq_bot']
+  intro f hf
+  rw [eq_zero_iff_ae_eq_zero]
+  apply ae_eq_zero_of_integral_contDiff_smul_eq_zero
+  · exact MemLp.locallyIntegrable (μ := μ) (Lp.memLp f) hp.elim
+  · intro g g_smooth g_cpt
+    have hg₁ : HasCompactSupport (Complex.ofRealCLM ∘ g) := HasCompactSupport.comp_left g_cpt rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/TemperedDistribution.lean]: dot notation

```suggestion
  · exact (Lp.memLp f).locallyIntegrable hp.elim
  · intro g g_smooth g_cpt
    have hg₁ : HasCompactSupport (Complex.ofRealCLM ∘ g) := g_cpt.comp_left rfl
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+

**Comment by mcdoll** [comment]
Thanks! I wonder how long it takes me to remember the `rintro .. rfl` trick.
bors merge
